US07700655B2
(1) 2-Amino-4-[3,5-bis(trifluoromethyl)phenyl]thiazole
Phenyltrimethylammonium tribromide (753 mg, 2 mmol) was added to a solution of 3′,5′-bis(trifluoromethyl)acetophenone (0.51 g, 2.0 mmol) in tetrahydrofuran (5 mL) and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into water and extracted with ethyl acetate. After the ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, ethanol (5 mL) and thiourea (152 mg, 2 mmol) were added to the residue obtained by evaporation of the solvent under reduced pressure, and the mixture was refluxed for 30 minutes. After the reaction mixture was cooled to room temperature, it was poured into saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. After the ethyl acetate layer was washed with brine and dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1) and washed with n-hexane under suspension to give the title compound (520.1 mg, 83.3%) as a light yellow white crystal.

reactant | Phenyltrimethylammonium tribromide | 2 mmol, 753 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 3′,5′-bis(trifluoromethyl)acetophenone | 2.0 mmol, 0.51 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)=O)(F)F | C10H6F6O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | thiourea | 2 mmol, 152 mg | NC(=S)N | CH4N2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-4-[3,5-bis(trifluoromethyl)phenyl]thiazole | 520.1 mg, 83.3% | NC=1SC=C(N1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H6F6N2S
